US08017599B2
1-Methyl-4-nitropyrrole-2-carboxylic acid
Acetic anhydride (20 mL) was treated with nitric acid (4.0 mL, 70%) and the mixture heated to 50° C. for 15 min then cooled to room temperature, and slowly added to a suspension of 1-methyl-2-pyrrolecarboxylic acid (4 g, 15.98 mmol) in of Ac2O (12 mL) cooled to −25° C. The mixture was stirred at −15° C. for 0.5 hr, then the temperature was allowed to rise to ambient, and stirring was continued for 20 min. The mixture was again cooled to −25° C. and the precipitate collected in a funnel cooled with dry ice, the solid was washed with a small quantity of cold Ac2O (−25° C.). The crystalline solid was taken up in water containing NaOH (1 g). Acidification with the HCl precipitated the pure compound. NMR as previously reported.

reactant | nitric acid | 4.0 mL | [N+](=O)(O)[O-] | HNO3
reactant | 1-methyl-2-pyrrolecarboxylic acid | 15.98 mmol, 4 g | CN1C(=CC=C1)C(=O)O | C6H7NO2
solvent | Acetic anhydride | 20 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | Ac2O | 12 mL | CC(=O)OC(=O)C | C4H6O3
product | 1-Methyl-4-nitropyrrole-2-carboxylic acid | CN1C(=CC(=C1)[N+](=O)[O-])C(=O)O | C6H6N2O4
